US07557125B2
b) 4(tert-Butoxycarbonyl)-3,4-dihydro-2H-pyrido[3,2-b]-1,4-oxazine
To a solution of 3,4-dihydro-2H-pyrido[3,2-b]-1,4-oxazine (1.44 g, 10.6 mmole) and di-tert-butyl dicarbonate (2.78 g, 12.7 mmole) in dry TBF (50 mL) was added a solution of LiHMDS in THF (1.0 M, 12.7 mL, 12.7 mmole) dropwise at 0° C. After 30 min the mixture was quenched with saturated NH4Cl and extracted with EtOAc (3×). The combined organic layers were dried (MgSO4), filtered, and concentrated. Flash chromatography on silica gel (40% EtOAc/hexanes) gave the title compound (2.0 g, 80%) as a clear oil: MS (ES) m/e 237 (M+H)+.

reactant | 3,4-dihydro-2H-pyrido[3,2-b]-1,4-oxazine | 10.6 mmole, 1.44 g | O1C2=C(NCC1)N=CC=C2 | C7H8N2O
reactant | di-tert-butyl dicarbonate | 12.7 mmole, 2.78 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | THF | 12.7 mmole, 1.0 M, 12.7 mL | C1CCOC1 | C4H8O
product | 4(tert-Butoxycarbonyl)-3,4-dihydro-2H-pyrido[3,2-b]-1,4-oxazine | 2.0 g, 80% | C(C)(C)(C)OC(=O)N1C2=C(OCC1)C=CC=N2 | C12H16N2O3
